US05208343
(d) 3-[3-(Hydroxyimino)-3-phenylpropyl]-1-propylpyridinium iodide
To a solution of 3-(3-pyridinyl)-1-phenylpropan-1-one oxime (4.79 g, 0.021 mol) in acetonitrile (50 mL) was added 1-iodopropane (3.10 mL, 0.032 mol). The mixture was then refluxed for 12 hours. Solvent was removed to dryness under vacuum to give a dark brown oil (8.46 g, 100%). The crude product was used in the next step without further purification.

reactant | 3-(3-pyridinyl)-1-phenylpropan-1-one oxime | 0.021 mol, 4.79 g | N1=CC(=CC=C1)CCC(=NO)C1=CC=CC=C1 | C14H14N2O
reactant | 1-iodopropane | 0.032 mol, 3.10 mL | ICCC | C3H7I
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 3-[3-(Hydroxyimino)-3-phenylpropyl]-1-propylpyridinium iodide | 8.46 g, 100% | [I-].ON=C(CCC=1C=[N+](C=CC1)CCC)C1=CC=CC=C1 | InChI=1S/C17H20N2O.HI/c1-2-12-19-13-6-7-15(14-19)10-11-17(18-20)16-8-4-3-5-9-16;/h3-9,13-14H,2,10-12H2,1H3;1H
